US04874756
3,3,6-Trimethyl-5-phenylbenzo[1,2-b:5,4-b']dipyrrol-2-(1H, 3H, 7H)-one.
Analogously to Example 5, 4 g. (22.7 mmole) 6-amino-3,3-dimethylindolin-2-one are diazotised and reduced. Subsequently, 3 g. (22.3 mole) phenylacetone are added thereto and the reaction mixture further stirred for 18 hours at 25° C. The oil which separates out is shaken out several times with methylene chloride, evaporated and the residue worked up with cyclohexane and filtered off with suction. The solid residue is again dissolved in methylene chloride, washed twice with aqueous sodium hydrogen carbonate solution and once with water, dried with anhydrous sodium sulphate with the addition of charcoal and crystallised from methylene chloride. Yield 1.25 g. (19% of theory); m.p. 233°-235° C.

reactant | 6-amino-3,3-dimethylindolin-2-one | 22.7 mmole | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
reactant | phenylacetone | 22.3 mole | C1(=CC=CC=C1)CC(C)=O | C9H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3,6-Trimethyl-5-phenylbenzo[1,2-b:5,4-b']dipyrrol-2-(1H, 3H, 7H)-one | CC1(C2=C(NC1=O)C=C1NC(=C(C1=C2)C2=CC=CC=C2)C)C | C19H18N2O
